US07482484B2
Step d: 2,2,2-trifluoro-N-(6-hex-1-ynyl-3-oxoindan-5-yl)acetamide
Trifluoroacetic anhydride (6.88 g, 32.7 mmol) is added dropwise to a mixture of 6-amino-5-hex-1-ynylindan-1-one (6.2 g, 27.3 mmol) in trifluoroacetic acid (37 ml), cooled to between 0° C. and 5° C. The reaction mass is stirred for 1 hour 30 minutes at between 0 and 5° C., and then poured onto ice-cold water. The precipitate is filtered off by suction, washed with water and then dissolved in ether for drying (Na2SO4). Dispersion in heptane of the evaporation residue gives a solid (6.74 g, yield: 76%).

reactant | Trifluoroacetic anhydride | 32.7 mmol, 6.88 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 6-amino-5-hex-1-ynylindan-1-one | 27.3 mmol, 6.2 g | NC1=C(C=C2CCC(C2=C1)=O)C#CCCCC | C15H17NO
solvent | trifluoroacetic acid | 37 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | heptane | CCCCCCC | C7H16
product | 2,2,2-trifluoro-N-(6-hex-1-ynyl-3-oxoindan-5-yl)acetamide | 6.74 g, yield: 76% | FC(C(=O)NC=1C=C2C(CCC2=CC1C#CCCCC)=O)(F)F | C17H16F3NO2
